Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Pertinent Results:
ADMISSION/SIGNIFICANT LABS:
==========================
___ 02:18AM BLOOD WBC-6.8 RBC-4.67 Hgb-14.3 Hct-42.2 MCV-90 
MCH-30.6 MCHC-33.9 RDW-13.2 RDWSD-43.1 Plt ___
___ 02:18AM BLOOD Glucose-99 UreaN-23* Creat-1.3* Na-140 
K-4.3 Cl-107 HCO3-20* AnGap-13
___ 02:18AM BLOOD CK-MB-5 cTropnT-0.05*
___ 02:18AM BLOOD %HbA1c-5.3 eAG-105

IMAGING/OTHER STUDIES: 
====================
MRI brain w/o contrast at ___: no stroke

MRI L-spine w/o contrast at ___: 
extensive lumbar disc disease bilaterally but worse on left 
without involvement of the cord; multiple disc bulges and 
narrowing of the nerve roots through the lumbar spine.

Final read:
1. Multilevel, degenerative disease of the lumbar spine.
2. Foraminal disc protrusions on the right at L3-4 and L4-5.
3. There is multilevel neural foraminal stenosis.

LABS AT DISCHARGE: 
=================
___ 06:13AM BLOOD WBC-6.7 RBC-4.86 Hgb-14.8 Hct-44.7 MCV-92 
MCH-30.5 MCHC-33.1 RDW-13.2 RDWSD-44.6 Plt ___
___ 06:13AM BLOOD Glucose-95 UreaN-26* Creat-1.4* Na-141 
K-4.7 Cl-103 HCO___ AnGap-___ with hx HTN who presents with right leg weakness found to 
have L3-4 disc herniation. 

# Right leg weakness: 
# L3-L4 disc herniation: 
Patient with isolated right hip flexion weakness, noted to have 
L3-L4 disc herniation on MRI. No caude equine syndrome. He was 
evaluated by ortho spine who felt that urgent surgical 
intervention was not warranted. He was treated with three doses 
of IV steroids with noted improvement in his strength. He was 
seen by physical therapy and given a script for outpatient 
treatment. He was provided a corsette brace to wear for comfort 
and will follow up with ortho spine as an outpatient. 

#CKD: 
Baseline Cr per ___ records Cr 1.3-1.6. 

#HLD:
Patient with total cholesterol 197 (8 months ago) with LDL of 
131. ASCVD Risk > 10%, started on high intensity statin. 

> 30 mins spent coordinating care. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atenolol 25 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever  
2.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
3.  Atenolol 25 mg PO DAILY  
4.Outpatient Physical Therapy
ICD10: M51.9 l3 herniated disc
prognosis: good
no spine restrictions; brace for comfort

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
# Leg weakness secondary to severe DJD with L3 disc herniation: 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

It was a priviliege to care for you at the ___ 
___. You were admitted for leg weakness due to nerve 
irritation from a herniated disc in your spine. You were seen by 
the spine surgeons who do not feel that surgery is needed at 
this time and will see you as an outpatient to reassess. While 
you were here, you were given IV steroids to help with the 
inflammation and noted improvement in your strength. You were 
given a brace to wear as needed for comfort and you were seen by 
___.  Lastly, 

Please continue to take all medications as prescribed and follow 
up with all appointments as detailed below. 

We wish you the best! 

Sincerely,

Your ___ team

 
Followup Instructions:
___